US08389524B2
(1R)-1-({4-Methyl-4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (26 mg, 0.083 mmol) (for a preparation see Example 23(i)) in chloroform (2 ml) and methanol (0.1 ml) at rt under argon was treated with [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde (13.83 mg, 0.083 mmol) (for a synthesis see WO2004058144 Example 61) and stirred at rt for 2 h. The solution was then treated with sodium triacetoxyborohydride (52.6 mg, 0.248 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (10 ml) and extracted with 20% methanol/DCM (3×50 ml). The combined organic fractions were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM, Rf=0.3 in 15% methanol/DCM) to give the free base of the title compound as a yellow solid (29 mg, 75%,).

reactant | (1R)-1-[(4-amino-4-methyl-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | 0.083 mmol, 26 mg | NC1(CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O)C | C17H22N4O2
reactant | [1,3]oxathiolo[5,4-c]pyridine-6-carbaldehyde | 0.083 mmol, 13.83 mg | S1COC=2C=NC(=CC21)C=O | C7H5NO2S
reactant | sodium triacetoxyborohydride | 0.248 mmol, 52.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.1 ml | CO | CH4O
product | (1R)-1-({4-Methyl-4-[([1,3]oxathiolo[5,4-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 29 mg, 75% | Cl.CC1(CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O)NCC2=CC3=C(C=N2)OCS3 | InChI=1S/C24H27N5O3S.ClH/c1-24(26-11-17-10-20-19(12-25-17)32-15-33-20)6-8-27(9-7-24)13-18-14-28-21(30)4-2-16-3-5-22(31)29(18)23(16)28;/h2-5,10,12,18,26H,6-9,11,13-15H2,1H3;1H/t18-;/m1./s1
